US06440995B1
2-[2-(5,6,7,8-Tetrahydro-naphthalen-2-yl)-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 250-252° C. and MS: m/e=319.4 (M+H+), was prepared from 4-chloro-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-quinoline and ethanolamine.

reactant | 4-chloro-2-(5,6,7,8-tetrahydro-naphthalen-2-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=2CCCCC2C=C1 | C19H16ClN
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(5,6,7,8-Tetrahydro-naphthalen-2-yl)-quinolin-4-ylamino]-ethanol hydrochloride | Cl.C1=C(C=CC=2CCCCC12)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C21H22N2O.ClH/c24-12-11-22-21-14-20(23-19-8-4-3-7-18(19)21)17-10-9-15-5-1-2-6-16(15)13-17;/h3-4,7-10,13-14,24H,1-2,5-6,11-12H2,(H,22,23);1H
